US06699896B1
{3,5-Dibromo-4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-yloxy}-acetic Acid
The title compound was prepared from 3,5-dibromo-4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-ol, and methyl bromoacetate in substantially the same manner, as described in Example 5, and was obtained as an off-white solid, mp 165-166° C.; MS m/e 609 (M+);

reactant | 3,5-dibromo-4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-ol | BrC=1C=C(C=C(C1O)Br)C1=CC=C(C=C1)C=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C23H14Br2F3NO2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | {3,5-Dibromo-4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-yloxy}-acetic Acid | BrC=1C=C(C=C(C1OCC(=O)O)Br)C1=CC=C(C=C1)C=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C25H16Br2F3NO4
